US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-5-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg) and a 40% aqueous solution (210 mg) of methylamine were added to pyridine (1 ml), and the mixture was heated and stirred overnight at 60° C. After the reaction mixture was allowed to cool, the solvent was distilled off under reduced pressure. Ethanol was added to the residue to collect solids. The solids were washed successively with ethanol and diethyl ether to obtain the title compound (115 mg) as a colorless powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)O)F)F | C17H10F4N2O3
reactant | methylamine | CN | CH5N
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-5-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 115 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C=C12)NC)F)C)=O)C(=O)O)F)F | C18H14F3N3O3
